Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
fluorescine IV dye / Shellfish / Estrogens / Penicillins / Sulfa
 
Attending: ___.
 
Chief Complaint:
elective admission for clipping of right anterior choroidal 
artery aneurysm. 
 
Major Surgical or Invasive Procedure:
Craniotomy for Aneurysm Clipping 

 
History of Present Illness:
This is s ___ year old female who presents electively for 
clipping of right anterior choroidal artery aneurysm. 
 
Past Medical History:
HTN, CVA, s/p coiling Pcom aneurysm, right anterior chorodal 
aneurysm, + smoker, hypothyroid, reflux, CVA ___ with left 
sided weakness and dysarthria with residual numbness lue 
___ digits, ___ diagnostic angiogramspetoplasty/ 
tonsilectomy ___ with emobiliation p com aneurysm.
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Upon discharge: 
A&Ox3 
PERRL 
face symmetric 
___ Strength throughout 
Incision c/d/i 

 
Brief Hospital Course:
This is a ___ year old female who presented today for elective 
craniotomy for clipping of right anterior choroidal aneurysm.  
The patient intraoperative had a low serum potassium and this 
was repleated intr operative.  The patient was recovered in the 
PACU.  In the pacu the patient experienced three episodes of 
___ beats of SVT. An EKG was performed and reviewed by the PACU 
resident which was found to be within normal limits.  Cardiac 
enzymes were sent and the first set was :
CK: 253  MB: 5  Trop-T: <0.01. 

Electrolytes were sent and the serum magnesium was found to be 
low and was repleated.  The patient was sleepy but 
neurologically intact at the time of her post operative exam.  
There was full strength noted in all four extremities.  The 
patient was transferred to the intensive care untiland the serum 
potasium was fount to be low again and was repleated. 

On ___,  The patient complained of blurred vision when both 
eyes were open.  The patient was neurologically intact on exam.  
The patients diet was advanced as tolerated.  The foley catheter 
and the arterial line was discontinued.  The patient was 
mobilized out of bed.  The patient was transferred to the floor 
in stable condition when a bed was ready. Consultations for ___ 
and OT were placed. The patient had a 6 beat run of vtach, labs 
were obtained and her potassium was repleted.

On ___, the patient remained neurologically stable. However 
during activity and with physical therapy and nursing the 
patient's O2 sats would drop to the 80's. She was also noted to 
have some hallucinations, which could be related to her pain 
medications. She kept in patient one more day for further 
monitoring.

On ___ Patient was neurologically stable. O2 sats improved both 
at rest and with activity. She was tolerating an advanced diet 
and ambulating independently. She was discharged home in good 
condition.   

 
Medications on Admission:
asa 81, lipitor, colace, synthroid, lisinopril, lopressor, 
zantac

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
2. Atorvastatin 80 mg PO QPM 
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
4. Levothyroxine Sodium 112 mcg PO DAILY 
5. Lisinopril 40 mg PO DAILY 
6. Metoprolol Tartrate 50 mg PO DAILY 
7. Metoprolol Tartrate 25 mg PO QHS 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6-8H PRN pain Disp #*20 
Tablet Refills:*0
9. MEDrol (Pak) (methylPREDNISolone) 4 mg oral daily 
follow instructions per pharmacist for taper 
RX *methylprednisolone [Medrol (Pak)] 4 mg ___ tablets(s) by 
mouth daily Disp #*1 Dose Pack Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
anterior choroidal artery aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
 
Elective Aneurysm Clipping
 
Call your neurosurgeons office and speak to the Nurse 
Practitioner if you experience:

 

-     Any neurological issues, such as change in vision, speech 
or movement

 

-     Swelling, drainage, or redness of your incision

 

-     Any problems with medications, such as nausea vomiting or 
lethargy

 

-     Fever greater than 101.5 degrees Fahrenheit

 

-     Headaches not relieved with prescribed medications

 

Activity:

 

-     Start to resume all activities as you tolerate  but start 
slowly and increase at your own pace.

 

-     Do not operate any motorized vehicle for at least 10 days 
after your surgery  your Nurse Practitioner can give you more 
detail at the time of your suture removal.  

 

Incision Care:

 

-     Keep your wound clean and dry.

 

-     Do not use shampoo until your sutures are removed. 

 

-     When you are allowed to shampoo your hair, let the shampoo 
run off the incision line.  Gently pad the incision with a towel 
to dry.

 

-     Do not rub, scrub, scratch, or pick at any scabs on the 
incision line.

 

-     You need your sutures removed 7 to 10 days after surgery

 

 

 

Post-Operative Experiences: Physical

 

-     Jaw pain on the same side as your surgery; this goes away 
after about a month

 

-     You may experience constipation.  Constipation can be 
prevented by:

 

o     Drinking plenty of fluids

o     Increasing fiber in your diet by eating vegetables, 
prunes, fiber rich breads and cereals, or fiber supplements

o     Exercising

o     Using over-the-counter bowel stimulants or laxatives as 
needed, stopping usage if you experience loose bowel movements 
or diarrhea

 

-     Fatigue which will slowly resolve over time

 

-     Numbness or tingling in the area of the incision; this can 
take weeks or months to fully resolve

 

-     Muffled hearing in the ear near the incision area

 

-     Low back pain or shooting pain down the leg which can 
resolve with increased activity

 

Post-Operative Experiences: Emotional

 

-     You may experience depression.  Symptoms of depression can 
include

 

o     Feeling down or sad

o     Irritability, frustration, and confusion

o     Distractibility

o     Lower Self-Esteem/Relationship Challenges

o     Insomnia

o     Loneliness

 

-     If you experience these symptoms, you can contact your 
Primary Care Provider who can make a referral to a Psychologist 
or Psychiatrist

 

-     You can also seek out a local Brain Aneurysm Support Group 
in your area through the Brain Aneurysm Foundation

 

o     More information can be found at ___

 

 
Followup Instructions:
___